US08895474B2
To a suspension of zinc dust (13.9 g, 214 mmol) in acetic acid (270 ml) is added a solution of 2-(5-bromo-2-ethylphenyl)cyclopent-4-ene-1,3-dione (8.544 g, 31 mmol) in acetic acid (70 ml). The reaction mixture is stirred at room temperature for 18 hours, then filtered through diatomaceous earth and washed with acetic acid and concentrated under reduced pressure. The crude oil is azeotroped with toluene (×2) then concentrated in vacuo and purified by flash column chromatography on silica gel to afford 2-(5-bromo-2-ethylphenyl)cyclopentane-1,3-dione.

reactant | 2-(5-bromo-2-ethylphenyl)cyclopent-4-ene-1,3-dione | 31 mmol, 8.544 g | BrC=1C=CC(=C(C1)C1C(C=CC1=O)=O)CC | C13H11BrO2
solvent | acetic acid | 270 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 214 mmol, 13.9 g | [Zn] | Zn
product | 2-(5-bromo-2-ethylphenyl)cyclopentane-1,3-dione | BrC=1C=CC(=C(C1)C1C(CCC1=O)=O)CC | C13H13BrO2
